US07776869B2
Step 1: 3-(2-nitro-4-(trifluoromethyl)phenyl)pyridine
A mixture of pyridin-3-ylboronic acid (0.99 g, 8.1 mmol), 2-bromo-5-(trifluoromethyl)benzenamine (1.2 ml, 8.1 mmol), tetrakis(triphenylphosphine)palladium (0.28 g, 0.24 mmol), sodium carbonate (2.0 M solution in water, 8.0 ml, 16 mmol), 4 ml ethanol, and 20 ml toluene was heated to 90° C. under nitrogen with a water-cooled reflux condenser. After 12 h, mixture was cooled to ambient temperature, and was partitioned between EtOAc and 1N NaOH. The organic layer was washed once with brine, dried with Na2SO4, filtered, and concentrated to give a brown oil, which was further purified by silica gel chromatography (EtOAc/hexanes) to give the desired product as a waxy orange solid. MS (m/z): 269.0 (M+H)+. Calc'd for C12H7F3N2O2: 268.19.

reactant | pyridin-3-ylboronic acid | 8.1 mmol, 0.99 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | 2-bromo-5-(trifluoromethyl)benzenamine | 8.1 mmol, 1.2 ml | BrC1=C(C=C(C=C1)C(F)(F)F)N | C7H5BrF3N
reactant | sodium carbonate | 16 mmol, 2.0 M, 8.0 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 4 ml | C(C)O | C2H6O
reactant | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.24 mmol, 0.28 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2-nitro-4-(trifluoromethyl)phenyl)pyridine | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)C=1C=NC=CC1 | C12H7F3N2O2
